US06479531B1
5-{[5-(Adamantan-1-yloxymethyl)-2-cycloheptyl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid
The title compound was prepared according to the procedure of Example 216, with the modification that cycloheptanecarboxaldehyde was used in step d instead of cyclohexanecarboxaldehyde and 5-amino-2-methyl-benzoic acid benzyl ester replaced 3-amino-benzoic acid benzyl ester in step f. 1H NMR (300 MHz, d6-DMSO) 12.40 (1H, br s), 12.11 (1H, br s), 9.55 (1H, s), 8.30 (1H, s), 7.76 (1H, d), 7.20 (1H, d), 4.78 (2H, s), 2.87 (1H, m), 2.45 (3H, s), 2.10-1.47 (27H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 60.38; H, 8.36; N, 7.51%; C37H56N4O9.2.0 H2O requires: C, 60.31; H, 8.21; N, 7.60%.

reactant | cycloheptanecarboxaldehyde | C1(CCCCCC1)C=O | C8H14O
reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
reactant | 5-amino-2-methyl-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)N)C)=O | C15H15NO2
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | water dioxan | O.O1CCOCC1
solvent | H2O | O | H2O
product | 5-{[5-(Adamantan-1-yloxymethyl)-2-cycloheptyl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid | C12(CC3CC(CC(C1)C3)C2)OCC2=C(N=C(N2)C2CCCCCC2)C(=O)NC=2C=CC(=C(C(=O)O)C2)C | C30H39N3O4
